US04963568
Step 4: N-Methoxy-N-methyl-5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalene carboxamide
5,6-Dimethoxy-3-phenyl-1,2,3,4-tetrahydro 1-naphthalene carboxylic acid (5 g, 16 mmol), from Step 3, was suspended in 100 mL of toluene and 5 mL of oxalyl chloride was added. The reaction mixture was heated at reflux temperature for 1.5 h under a nitrogen atmosphere. The solvent was evaporated and the water removed from the residue as an azeotrope with toluene (2×40 mL). The acid chloride and 2 g (20 mmol) of N,O-dimethylhydroxylamine hydrochloride were dissolved in 80 mL of ethanol free chloroform. The solution was cooled to 0° C. and 3.3 mL of pyridine was added slowly. The reaction mixture was allowed to warm to ambient temperature and stirred at ambient temperature for approximately 4 h then evaporated to dryness. The residue was dissolved in a 1:1 mixture of diethyl ether and methylene chloride and washed with brine. The layers were separated and the organic layer dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound as an oil in 98% yield. The product of Step 4 was used in the next step without purification.

reactant | 5,6-Dimethoxy-3-phenyl-1,2,3,4-tetrahydro 1-naphthalene carboxylic acid | 16 mmol, 5 g | COC1=C2CC(CC(C2=CC=C1OC)C(=O)O)C1=CC=CC=C1 | C19H20O4
reactant | oxalyl chloride | 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 20 mmol, 2 g | Cl.CNOC
reactant | pyridine | 3.3 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | N-Methoxy-N-methyl-5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalene carboxamide | 98% yield | CON(C(=O)C1CC(CC2=C(C(=CC=C12)OC)OC)C1=CC=CC=C1)C | C21H25NO4
